US09127027B2
Heptane-1,7-diol (36.0 g, 272 mmol; Alfa Aesar) and aq. 48% HBr (38 mL, 0.9 equiv.) were heated under reflux in benzene (400 mL) with water removal using a Dean-Stark apparatus. After 16 h, all volatiles were removed in vacuo and the residue was purified by SiO2 column chromatography using a gradient of 10-30% EtOAc/hexanes as eluent to give 7-bromoheptan-1-ol (26.22 g, 62%) as a colorless oil. TLC: 50% EtOAc/hexanes, Rf≈0.40; 1H NMR (400 MHz, CDCl3) δ 3.61 (t, 2H, J=7.1 Hz), 3.39 (t, 2H, J=6.8 Hz), 1.80-1.88 (m, 2H), 1.52-1.58 (m, 2H), 1.30-1.46 (m, 6H).

reactant | Heptane-1,7-diol | 272 mmol, 36.0 g | C(CCCCCCO)O | C7H16O2
reactant | HBr | 38 mL, 0.9 equiv. | Br | BrH
reactant | water | O | H2O
solvent | benzene | 400 mL | C1=CC=CC=C1 | C6H6
product | 7-bromoheptan-1-ol | 26.22 g, 62% | BrCCCCCCCO | C7H15BrO
